US07754737B2
A solution of benzyl (S)-2-(t-butoxycarbonylamino)-3-(trans-4-fluorocyclohexyl)-propyl(methyl)carbamate (200 mg, 0.47 mmol) in TFA/CH2Cl2 (15 mL, v/v 20%) was stirred for 1 h at rt, then quenched by addition of sat'd aq NaHCO3 solution until gas evolution ceased. The mixture was extracted with CH2Cl2 (2×50 mL). The combined organic layers were washed with brine, dried over MgSO4, filtered and concentrated under reduced pressure to obtain benzyl (S)-2-amino-3-(trans-4-fluorocyclohexyl)propyl(methyl)carbamate (140 mg, yield 93%). 1H NMR (CDCl3, 400 MHz): δ 1.42 (m, 4H), 1.64 (m, 4H), 2.98 (d, 3H), 3.21 (m, 1H), 3.50 (m, 1H), 3.90 (m, 1H), 5.13 (d, 2H), 7.33 (m, 5H).

reactant | benzyl (S)-2-(t-butoxycarbonylamino)-3-(trans-4-fluorocyclohexyl)-propyl(methyl)carbamate | 0.47 mmol, 200 mg | C(C)(C)(C)OC(=O)N[C@H](CN(C(OCC1=CC=CC=C1)=O)C)C[C@@H]1CC[C@H](CC1)F | C23H35FN2O4
solvent | TFA CH2Cl2 | 15 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | benzyl (S)-2-amino-3-(trans-4-fluorocyclohexyl)propyl(methyl)carbamate | 140 mg, yield 93% | N[C@H](CN(C(OCC1=CC=CC=C1)=O)C)C[C@@H]1CC[C@H](CC1)F | C18H27FN2O2
